reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2](/[C:3](=[N:4]\[O:5][H:12])[C:6]([H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:10])[H:11])([H:8])[H:9].[C:3](=[N:4]\[O:5][H:12])(\[C:6]([H:13])([H:14])[H:15])[H:7],97.7041728979501
[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([N+:7]#[C-:6])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8],38.1605562472106
[C:1]([C:2](=[C:5]=[N:6][C:3]([O:4][H:13])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],56.518031142266096
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([H:11])[H:12])([H:8])[H:10].[C:3](\[C:4]([H:14])([H:15])[H:16])(=[N:5]/[C:6](=[O:7])[H:18])[H:13].[H:9][H:17],98.96091871053841
[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([H:9])([H:10])[H:11])([H:6])([H:7])[H:8].[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17],91.7746020496521
[C:1]([C:2]([C:3]([C:4]([O:5][C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:12].[C:2](=[C:3]([C:4]([O:5][C:6]([H:16])([H:17])[H:18])([H:14])[H:15])[H:13])([H:10])[H:11],112.89370475669399
[C:1](=[C:2]([C:3](/[C:4](=[C:5](/[O:6][H:9])[H:14])[H:13])([H:11])[H:12])[H:10])([H:7])[H:8]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9],51.94342911643871
[C:1]([C:2](=[O:4])[H:8])([H:5])([H:6])[H:7].[C:3]([H:9])([H:10])([H:11])[H:12]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([O:4][H:12])[H:8])([H:5])([H:6])[H:7],78.25943710950334
[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[N:2][H:11])([H:9])[H:10].[C:3](=[O:4])([C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:8],91.5494751188776
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([O:6][H:16])([H:14])[H:15])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9].[C:4](=[C:5]([O:6][H:16])[H:15])([H:13])[H:14],84.867242172617
[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@:2]([C:3](=[O:4])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:12])([H:8])([H:9])[H:10].[H:11][H:14],86.95560679122343
[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6][O:7][H:13])[H:11])([H:8])([H:9])[H:10],82.06694273354309
[C:1]([C:2]1([O+:6]=[C-:5][H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([C:5](=[O:6])[H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],54.574327317025606
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2](/[C:3](=[C:4](\[C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],81.7464534203898
[C:1](=[N:2][C:3]([N:4]([C:5](=[O:6])[H:12])[H:11])([H:7])[H:10])([H:8])[H:9]>>[C:1](/[N:2]=[C:3](/[N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],69.63095973710189
[C:1]([N:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]#[N:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N+:2]([C-:3]([C:4]([H:12])([H:13])[H:14])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],68.5915765908
[C:1]([C:2]1([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[O:5]1)([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:4]([C:3]([H:9])([H:10])[H:11])([H:12])[H:13])=[O:5])([H:6])([H:7])[H:8],76.34375069105509
[C:1](=[C:2]([C:3]([H:11])([H:12])[H:13])[H:10])([H:7])[H:9].[C:4]([O:5][H:8])[N:6]([H:14])[H:15]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[N:6]([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],15.214280476026914
[O:1]([C:5]([C:4]([C:3]([C:2]([H:8])([H:9])[H:14])([H:10])[H:11])([H:12])[H:13])=[O:6])[H:7]>>[O:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],119.5473730478538
[C:4](=[O:5])([H:8])[H:12].[O:1]=[C:2]([C:3]([C:6]#[C:7][H:13])([H:10])[H:11])[H:9]>>[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8],80.5704945244639
[C:1]([C:2](=[O:3])[C:4]#[C:5][H:12])([H:8])([H:9])[H:10].[C:6]=[N:7][H:11]>>[C:1]([C@@:2]([O:3][H:11])([C:4]#[C:5][H:12])[C:6]#[N:7])([H:8])([H:9])[H:10],45.38926871242529
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C@@:6]1([H:17])[C@:4]([C:5]([H:14])([H:15])[H:16])([H:13])[O:7]1)([H:11])[H:12])([H:8])([H:9])[H:10],81.7318372405919
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[N:6]([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])(/[C:4]([O:5][H:15])=[N:6]\[H:14])[H:10])([H:7])([H:8])[H:9],43.4624892875066
